US04489094
4-[[3,3-Bis(p-chlorophenyl)propyl]amino]benzoic acid
A mixture of 4.25 g. of p-[[3,3-bis(p-chlorophenyl)propyl]amino]benzoic acid, ethyl ester, 2.85 g. of potassium hydroxide, and 50 ml. of 95% ethanol is heated at 75° C. for 26 hours, cooled, diluted with 150 ml. of water, and adjusted to pH 5 with 37% hydrochloric acid. The solid is collected, dried, and crystallized twice from isopropanol, giving 2.88 g. of the desired product as tan crystals, m.p. 213°-215° C.

reactant | p-[[3,3-bis(p-chlorophenyl)propyl]amino]benzoic acid, ethyl ester | ClC1=CC=C(C=C1)C(CCNC1=CC=C(C(=O)OCC)C=C1)C1=CC=C(C=C1)Cl | C24H23Cl2NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-[[3,3-Bis(p-chlorophenyl)propyl]amino]benzoic acid | ClC1=CC=C(C=C1)C(CCNC1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)Cl | C22H19Cl2NO2
